US07491705B2
(3S)-3-Amino-2-hydroxy-4-phenylbutyric acid (11 g, 56.34 mmol) was dissolved in 1M NaOH (70 mL), and to this solution was added a solution of di-t-butyl dicarbonate (12 g, 57 mmol) in dioxane (70 mL). The mixture was stirred at room temperature for 18 hours while the pH was maintained between 10 and 11 with 1M NaOH. The mixture was diluted with water (600 mL), and washed with diethyl ether (2×200 mL). The aqueous phase was chilled in an ice bath and acidified to pH 2 with 1M HCl. This mixture was extracted with ethyl ether (3×250 mL). The organic phase was dried over anhydrous MgSO4 and concentrated in vacuo to yield (3S)-3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutanoic acid (12 g, 72%) as a mixture of diastereomer which was a colorless solid.

reactant | (3S)-3-Amino-2-hydroxy-4-phenylbutyric acid | 56.34 mmol, 11 g | N[C@H](C(C(=O)O)O)CC1=CC=CC=C1 | C10H13NO3
reactant | di-t-butyl dicarbonate | 57 mmol, 12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1M, 70 mL | [OH-].[Na+]
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | water | 600 mL | O | H2O
solvent | NaOH | 1M | [OH-].[Na+]
product | (3S)-3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutanoic acid | 12 g, 72% | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)O)O)CC1=CC=CC=C1 | C15H21NO5
